US06686381B2
2-Bromo-1-(2-ethyl-phenyl)-ethanone
To a solution of 15.2 g (88 mmol) dibromethane in 120 ml THF at −75° C. was added 44 ml (88 mmol) of a 2M solution of LDA in THF and subsequently 6.57 g (40 mmol) ethyl-benzoic acid methyl ester in 80 ml THF. 37.5 ml of a 1.6 M n-butyl lithium solution in n-hexane was added and after 30 min the mixture was treated carefully below −65° C. with 35 ml HCl (37%). The mixture was washed with water and NaHCO3 aq. and the organic phase was dried with MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica eluting with ethyl acetate/hexane 1:9 twice to afford 3.8 g (41%) of the title compound as yellow oil. MS (m/e): 227.1 (M+H, 100%).

reactant | dibromethane | 88 mmol, 15.2 g | BrC(C)Br | C2H4Br2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | ethyl-benzoic acid methyl ester | 40 mmol, 6.57 g | COC(C1=C(C=CC=C1)CC)=O | C10H12O2
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | HCl | 35 ml | Cl | ClH
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 2-Bromo-1-(2-ethyl-phenyl)-ethanone | 3.8 g, 41% | BrCC(=O)C1=C(C=CC=C1)CC | C10H11BrO
